US07842696B2
LiOH (25 mg, 0.60 mmol) was added at room temperature to a stirred solution of 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid ethyl ester (60 mg, 0.275 mmol) in THF:MeOH:H2O (3:1:1, 5 mL) and the resulting mixture stirred for 1 hr. Removal of the volatiles by evaporation under reduced pressure afforded 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid lithium salt, which was used for the next step without further purification.

reactant | LiOH | 0.60 mmol, 25 mg | [Li+].[OH-]
reactant | 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid ethyl ester | 0.275 mmol, 60 mg | C(C)OC(=O)C=1OC(=NN1)C1=CC=CC=C1 | C11H10N2O3
solvent | THF MeOH H2O | 5 mL | C1CCOC1.CO.O
product | 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid lithium salt | [Li+].C1(=CC=CC=C1)C1=NN=C(O1)C(=O)[O-] | InChI=1S/C9H6N2O3.Li/c12-9(13)8-11-10-7(14-8)6-4-2-1-3-5-6;/h1-5H,(H,12,13);/q;+1/p-1
